US04959361
5-(2-Chlorophenyl)-1,3-dihydro-7-iodo-2H-thieno[2,3-e][1,4]diazepin-2-one.
A solution of 54.8 g of 5-(2-chlorophenyl)-1,3-dihydro-2H-thieno[2,3-e][4,1]diazepin-2-one [NL patent 7,205,730, Nov. 1972, Hoffmann-La Roche & Co., AG, Basle]in 350 ml of acetic acid and 350 ml of methanol was treated with 64.4 g of iodine monochloride and 16.2 g of sodium acetate. The mixture was stirred for 15 minutes at room temperature. A solution of 65 g of sodium bisulfite in 350 ml of water was then added and stirring was continued for 10 minutes. The mixture was neutralized by addition of 500 ml of conc. ammonia and 1 kg of ice. The precipitated product was filtered off and washed with water and ethanol. Recrystallization from tetrahydrofuran/ ethanol gave off-white crystals of the title compound with m.p. 229°-231°.

reactant | 5-(2-chlorophenyl)-1,3-dihydro-2H-thieno[2,3-e][4,1]diazepin-2-one | 54.8 g | ClC1=C(C=CC=C1)C=1C2=C(NC(CN1)=O)SC=C2 | C13H9ClN2OS
reactant | iodine monochloride | 64.4 g | ICl | ClI
reactant | sodium acetate | 16.2 g | C(C)(=O)[O-].[Na+]
reactant | sodium bisulfite | 65 g | S([O-])(O)=O.[Na+]
reactant | ammonia | 500 ml | N | H3N
solvent | water | 350 ml | O | H2O
solvent | methanol | 350 ml | CO | CH4O
solvent | acetic acid | 350 ml | C(C)(=O)O | C2H4O2
product | 5-(2-Chlorophenyl)-1,3-dihydro-7-iodo-2H-thieno[2,3-e][1,4]diazepin-2-one | ClC1=C(C=CC=C1)C=1C2=C(NC(CN1)=O)SC(=C2)I | C13H8ClIN2OS
